US05872115
Step 2): (BOC)2O (2.5 g, 14.3 mmol) was added to a solution of 5-isopropyl-anthranilic acid (2.5 g, 13.9 mmol) in t-BuOH. The mixture was stirred for 18 hours at room temperature and then poured into H2O and extracted with AcOEt. The extract was washed with H2O, dried over MgSO4 and evaporated. The residue was purified by column chromatography on silica gel to give 5-isopropyl-N-tert-butoxycarbonylanthranilic acid, 2.5 g (63.4%): mp 175° C.

reactant | (BOC)2O | 14.3 mmol, 2.5 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 5-isopropyl-anthranilic acid | 13.9 mmol, 2.5 g | C(C)(C)C1=CC=C(C(C(=O)O)=C1)N | C10H13NO2
reactant | H2O | O | H2O
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | 5-isopropyl-N-tert-butoxycarbonylanthranilic acid | C(C)(C)C1=CC=C(C(C(=O)O)=C1)NC(=O)OC(C)(C)C | C15H21NO4
